US07332495B2
IV-25 N1-(3-methoxybenzyl)-N4-phenacyl piperazine dihydrochloride
A mixture of 3-methoxybenzylchloride (0.5 g, 2.15 mmol), N-phenacyl piperazine dihydrochloride (0.6 g, 2.15 mmol) and K2CO3 (1.04 g, 7.52 mmol) in 30 ml of acetone was treated according to general preparation 2 to give 0.46 g of compound (IV-25), yield 54%. M+ 324.

reactant | 3-methoxybenzylchloride | 2.15 mmol, 0.5 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | N-phenacyl piperazine dihydrochloride | 2.15 mmol, 0.6 g | Cl.Cl.C(C(=O)C1=CC=CC=C1)N1CCNCC1
reactant | K2CO3 | 7.52 mmol, 1.04 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N1-(3-methoxybenzyl)-N4-phenacyl piperazine dihydrochloride | 0.46 g, yield 54% | Cl.Cl.COC=1C=C(CN2CCN(CC2)CC(=O)C2=CC=CC=C2)C=CC1 | InChI=1S/C20H24N2O2.2ClH/c1-24-19-9-5-6-17(14-19)15-21-10-12-22(13-11-21)16-20(23)18-7-3-2-4-8-18;;/h2-9,14H,10-13,15-16H2,1H3;2*1H
